US07417169B2
2,2,2-Trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]acetamide
A suspension of (−)-4-hydroxynorephedrine (90 g) and ethyl trifluoroacetate (96 mL) in ethanol (543 mL) was stirred at room temperature for 4 hrs. The reaction mixture was concentrated in vacuo, and then ethyl acetate and water were added to the residue. The organic layer was separated, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (128 g).

reactant | (−)-4-hydroxynorephedrine | 90 g | C[C@@H]([C@@H](C1=CC=C(C=C1)O)O)N | C9H13NO2
reactant | ethyl trifluoroacetate | 96 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | ethanol | 543 mL | C(C)O | C2H6O
product | 2,2,2-Trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]acetamide | 128 g | FC(C(=O)N[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)(F)F | C11H12F3NO3
